US04461724
5.0 g of Boc-His(Tos)-Lys(Z)-OBzl was added to 9.8 g of TosOH.H2O dissolved in 26 of dioxane, which was then left at room temperature for an hour with occasional shaking. Next, water was added to it and the mixture was extracted with ethyl acetate. The extract was washed with sodium bicarbonate aqueous solution and saturated saline, and dried over sodium sulfate anhydride. Thereafter, the solvent was distilled off to obtain 3.75 g of His(Tos)-Lys(Z)-OBzl as a pale brown oily matter.

reactant | Boc-His(Tos)-Lys(Z)-OBzl | 5.0 g | N([C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C39H47N5O9S
reactant | TosOH.H2O | 9.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)O.O
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | His(Tos)-Lys(Z)-OBzl | 3.75 g | N[C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C34H39N5O7S
